US05451700
Methyl 4-[5-(4-cyanophenoxy)-pentoxy]-3-methoxybenzoate (3600 g, 9.74 mol) is dissolved in tetrahydrofuran (36 L) with warming to 30° C. The solution is then cooled to 20° C. and a solution of tetrabutylammonium hydroxide (40% in water, 7.1 L, 1.64 m) is added over 20 minutes. The reaction mixture is then stirred at an internal temperature of 25° C. for 7 hours and overnight at room temperature (23° C.). After cooling to 10° C. with an ice bath, hydrochloric acid (1.0 N, 14.4 L) is added over 1 hour. After stirring and cooling to 10° C. for three hours, the product is filtered, washed with water (24 L) and dried in vacuo (76° C., 3 mm Hg) to give 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoic acid, mp 159°-161° C. HPLC indicates 99.1% purity. A second crop of acid is obtained from the flitrates after diluting further with water (20 L). The product is filtered, washed with water (4×3 L) and dried in vacuo to give 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoic acid, mp 158°-160° C., (HPLC indicates 98.3% purity).

reactant | Methyl 4-[5-(4-cyanophenoxy)-pentoxy]-3-methoxybenzoate | 9.74 mol, 3600 g | C(#N)C1=CC=C(OCCCCCOC2=C(C=C(C(=O)OC)C=C2)OC)C=C1 | C21H23NO5
reactant | tetrabutylammonium hydroxide | 7.1 L | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1.0 N, 14.4 L | Cl | ClH
solvent | tetrahydrofuran | 36 L | O1CCCC1 | C4H8O
product | 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoic acid | C(#N)C1=CC=C(OCCCCCOC2=C(C=C(C(=O)O)C=C2)OC)C=C1 | C20H21NO5
